US04760087
(a) 1-(tert-Butyldiphenylsilyloxy)-prop-2-yne
2.9 ml of 2-propyn-1-ol, 15.6 ml of tert-butyldiphenylchlorosilane and 4.1 g of imidazole were reacted in the manner described in Example 14c. Chromatography of the raw product on silica gel [Kieselgel 60 (0.063-0.200 mm)] with petroleum ether/diisopropylether (20:1) yielded 13.3 g of the title compound in the form of crystals melting at 55°-58° C.

reactant | 2-propyn-1-ol | 2.9 ml | C(C#C)O | C3H4O
reactant | tert-butyldiphenylchlorosilane | 15.6 ml | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | imidazole | 4.1 g | N1C=NC=C1 | C3H4N2
product | 1-(tert-Butyldiphenylsilyloxy)-prop-2-yne | 13.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC#C | C19H22OSi
